US07838543B2
N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-3-naphthalen-2-yl-acrylamide
Prepare according to Method C (Example 9), using 3-(2-naphthyl)acrylic acid (69 mg, 0.348 mmol), oxalyl chloride (150 μL, 1.72 mmol), and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine (60 mg, 0.229 mmol) to afford the title compound (97 mg, 96%). mass spectrum (m/e): 442.0 [M+H]. 1H NMR (400 MHz, DMSO-d6) δ 10.27 (s, 1H), 8.30 (d, 1H, J=1.3 Hz), 8.14 (s, 1H), 8.00-7.92 (m, 3H), 7.78 (dd, 1H, J=8.5, 1.6 Hz), 7.71 (d, 1H, J=15.6), 7.59-7.54 (m, 2H), 7.45-7.42 (m, 2H), 6.97 (d, 1H, J=15.4 Hz), 3.71 (t, 1H, J=8.1 Hz), 3.62 (t, 1H, J=7.9 Hz), 3.47 (m, 1H), 3.26 (m, 1H), 2.89 (m, 1H), 2.21-2.17 (m, 7H), 1.94-1.86 (m, 1H).

reactant | 3-(2-naphthyl)acrylic acid | 0.348 mmol, 69 mg | C1=C(C=CC2=CC=CC=C12)C=CC(=O)O | C13H10O2
reactant | oxalyl chloride | 1.72 mmol, 150 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 0.229 mmol, 60 mg | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
product | N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-3-naphthalen-2-yl-acrylamide | 97 mg, 96% | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)NC(C=CC2=CC1=CC=CC=C1C=C2)=O)C | C26H26N4OS
